US07592358B2
33.1d. 5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-2-(2-pyrrolidin-1-ylethoxy)phenol
The product was obtained analogously to Example 7.1e starting from 5-iodo-2-(2-pyrrolidin-1-ylethoxy)phenol and 5-(4-chlorophenyl)-2-ethynylpyridine. Yield: 0.75 g (48% of theoretical); C25H23ClN2O2 (M=418.915); calc.: molpeak (M+H)+: 419/421 (Cl); found: molpeak (M+H)+: 419/421 (Cl); HPLC-MS: 7.33 minutes (method A).

reactant | 5-iodo-2-(2-pyrrolidin-1-ylethoxy)phenol | IC=1C=CC(=C(C1)O)OCCN1CCCC1 | C12H16INO2
reactant | 5-(4-chlorophenyl)-2-ethynylpyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | 5-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-2-(2-pyrrolidin-1-ylethoxy)phenol | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=C(C1)O)OCCN1CCCC1 | C25H23ClN2O2
